US06673797B1
(3) Preparation of 2-(Oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine
A mixture of 1-benzenesulfonyl-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine (0.35 g), potassium hydroxide (0.34 g) and methanol (30 ml) was stirred at 15 to 30° C. for 30 minutes. To the reaction mixture was added water, the resulting mixture was extracted with dichloromethane, washed with a saturated aqueous NaCl solution, dried over sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (hexane:ethyl acetate=1:1) to obtain 0.19 g of the desired product.

reactant | 1-benzenesulfonyl-2-(oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 0.35 g | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)S(=O)(=O)C)C=2OC=CN2 | C17H13N3O5S2
reactant | potassium hydroxide | 0.34 g | [OH-].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | O | H2O
product | 2-(Oxazol-2-yl)-5-methanesulfonyl-1H-pyrrolo[2,3-b]pyridine | 0.19 g | O1C(=NC=C1)C1=CC=2C(=NC=C(C2)S(=O)(=O)C)N1 | C11H9N3O3S
